### PR TITLE
[Merged by Bors] - feat: selfadjointness for comparable elements in a star ordered ring

### PR DESCRIPTION
**Pull request by j-loreaux**
---

We also add `grind` and `aesop` annotations for `IsStarProjection.nonneg`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 1]
```diff
@@ -464,6 +465,13 @@ end Ring
 section NonUnitalRing
 variable [NonUnitalRing R] [PartialOrder R] [StarRing R] [StarOrderedRing R] {p q : R}
 
+lemma IsSelfAdjoint.iff_of_le {a b : R} (hab : a ≤ b) :
+    IsSelfAdjoint a ↔ IsSelfAdjoint b := by
+  replace hab := (sub_nonneg.mpr hab).isSelfAdjoint
+  exact ⟨fun ha ↦ by simpa using hab.add ha, fun hb ↦ by simpa using (hab.sub hb).neg⟩
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean]: Not sure if you'd like this proof, but this works:
```suggestion
  aesop (add simp IsSelfAdjoint)
```

Anyway, up to you,

maintainer delegate

**Comment by j-loreaux** [comment]
I just realized we have `IsSelfAdjoint.mono` (which is maybe a bad name?)

**Comment by themathqueen** [comment]
> I just realized we have `IsSelfAdjoint.mono` (which is maybe a bad name?)

Yeah, I like `IsSelfAdjoint.of_ge` more than `.mono`, but maybe we can have that as an alias name?

**Comment by j-loreaux** [comment]
Updated. I've just deprecated `.mono`. If it's used in a lot of places (I suspect not), then we can consider an `alias`.

**Comment by ocfnash** [comment]
bors merge
